US08735379B2
To a mixture of 2,4,6-trimethyl-1,3,5-trioxane (245 mg, 1.85 mmol) and NaI (0.972 g, 6.48 mmol) in DCM (15 mL) was added a solution of 2-(chlorocarbonyl)phenyl acetate in DCM (5 mL, 0° C.). The resulting mixture was allowed to stir (RT, 16 h). The mixture was filtrated and concentrated under reduced pressure. The crude was purified by silica chromatography (EtOAc—PE, 0-10%) to afford 1-iodoethyl 2-acetoxybenzoate (0.75 g, 40%) as a light yellow oil.

reactant | 2,4,6-trimethyl-1,3,5-trioxane | 1.85 mmol, 245 mg | CC1OC(OC(O1)C)C | C6H12O3
reactant | NaI | 6.48 mmol, 0.972 g | [Na+].[I-]
reactant | 2-(chlorocarbonyl)phenyl acetate | C(C)(=O)OC1=C(C=CC=C1)C(=O)Cl | C9H7ClO3
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-iodoethyl 2-acetoxybenzoate | 0.75 g, 40% | C(C)(=O)OC1=C(C(=O)OC(C)I)C=CC=C1 | C11H11IO4
